US06143570
Preparation of 3,6-bis(n-hexylamino)acridine
298 mg of ground potassium hydroxide are added to a solution of 500 mg of N,N'-bistosyl-3,6-diaminoacridine and 797 mg of 1-bromohexane in 25 ml of dimethylformamide, and the mixture is stirred at 60° C. for 22 hours. The cooled reaction mixture is subsequently poured into water and extracted with ethyl acetate, and the organic phase is separated off, washed with aqueous NaCl solution and then dried over sodium sulfate. Evaporation gives a dark-red oil, which is taken up in toluene/ethyl acetate (20:1) and chromatographed on silica gel. Evaporation of the solvent gives a yellow, viscous oil, which is dissolved in 11.5 ml of glacial acetic acid, 4.6 ml of 97% sulfuric acid are added with water cooling, and the mixture is then stirred at room temperature for 15 hours. The red reaction mixture is poured into ice water and adjusted to pH 11 by means of 30% NaOH. The mixture is extracted with ethyl acetate, and the organic phase is washed with 2N HCl and saturated aqueous NaCl solution and then dried over sodium sulfate. After evaporation, the dark-red, viscous oil is taken up in t-butyl methyl ether/methanol (5:1) and chromatographed on silica gel, giving the title compound as orange-red crystals having a melting point of >200° C. (decomposition). 1H-NMR (CDCl3): 8.1 [s, 1H, C(9)]; 7.44 [d, 2H, C(8)]; 6.93 [s, 2H, C(S)]; 6.82 [d, 2H, C(7)]; 3.20 [t, 4H, N-CH2 ]; 1.68 [m, 6H, CH3 ].

reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N'-bistosyl-3,6-diaminoacridine | 500 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=2C=C(C=CC2CC2=CC=C(C=C12)NS(=O)(=O)C1=CC=C(C)C=C1)N | C27H25N3O4S2
reactant | 1-bromohexane | 797 mg | BrCCCCCC | C6H13Br
reactant | sulfuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | acetic acid | 11.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3,6-bis(n-hexylamino)acridine | C(CCCCC)NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)NCCCCCC | C25H35N3
